US06984742B2
Preparation of ethyl(2E,4E,6E,10E)-3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoate
Under argon atmosphere, sodium ethoxide (2.16 g, 1.26 equivalents) was suspended in 20 ml of dimethylformamide, and the suspension was added dropwise with 5 ml dimethylformamide solution of triethyl-3-methyl-4-phosphonocrotonate (7.87 g, 1.2 equivalents, 23.28 mmol) at room temperature. The reaction mixture was then added dropwise with 5 ml dimethylformamide solution of farnesal (5.0 g, 22.7 ml) under stirring at −10° C., and further stirred at the same temperature for 30 minutes. The reaction mixture was added to ice-water. The solution was neutralized with acetic acid and extracted with n-heptane. The resulting organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 6.6 g of the title compound (yield 88%, 2E:2Z=86:14) as a yellow oil.

reactant | sodium ethoxide | 2.16 g, 1.26 equivalents | [O-]CC.[Na+]
reactant | triethyl-3-methyl-4-phosphonocrotonate | 23.28 mmol, 7.87 g, 1.2 equivalents | C(C)C(/C(=C(/C(=O)[O-])\CC)/C)(P(=O)(O)O)CC
reactant | farnesal | 22.7 ml, 5.0 g | CC(=CCC/C(=C/CC/C(=C/C=O)/C)/C)C | C15H24O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl(2E,4E,6E,10E)-3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoate | 6.6 g, yield 88% | C(C)OC(\C=C(\C=C\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)/C)=O | C22H34O2
